US04507488
1st Stage: 5-(Chloracetamido)-1,4-dimethyl-pyrazole
27 g of 5-amino-1,4-dimethyl-pyrazole are dissolved in 290 ml of absolute dichloromethane. 50 g of chloroacetic acid anhydride is added and the mixture stirred for 3 h at room temperature. The dichloromethane phase is then washed with a saturated sodium-hydrogencarbonate solution and water, dried over sodium sulfate, and concentrated by evaporation. The residue is recrystallized from isopropyl ether.

reactant | 5-amino-1,4-dimethyl-pyrazole | 27 g | NC1=C(C=NN1C)C | C5H9N3
reactant | chloroacetic acid anhydride | 50 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | dichloromethane | 290 ml | ClCCl | CH2Cl2
product | 5-(Chloracetamido)-1,4-dimethyl-pyrazole | ClCC(=O)NC1=C(C=NN1C)C | C7H10ClN3O
